US07531533B2
Synthesis of ethyl 2-[2-(benzyloxy)ethoxy]isonicotinate (Intermediate ii-01) (Preparation method id-1)
A solution of ethyl 2-bromoisonicotinate (575 mg, MATRIX) in THF (25 ml) was added with ethylene glycol monobenzyl ether (710 μl, TCI), cooled to 0° C., and added with potassium t-butoxide (420 mg, TCI), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was added with purified water (15 ml), and extracted with ethyl acetate (30 ml×2). The organic layers were combined, washed with saturated brine, and dried, and then the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (Flash, hexane:ethyl acetate=10:1) to obtain the title compound (Intermediate ii-01).

reactant | ethyl 2-bromoisonicotinate | 575 mg | BrC=1C=C(C(=O)OCC)C=CN1 | C8H8BrNO2
reactant | ethylene glycol monobenzyl ether | 710 μl | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | potassium t-butoxide | 420 mg | CC(C)([O-])C.[K+]
reactant | water | 15 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | ethyl 2-[2-(benzyloxy)ethoxy]isonicotinate | C(C1=CC=CC=C1)OCCOC=1C=C(C(=O)OCC)C=CN1 | C17H19NO4
